US05399703
Ethyl 4-[2-[3-hydroxy-2-(1H-tetrazol-5-yl)phenylthio]phenylcarbamoyl]phenoxyacetate
In 10 ml of toluene was suspended 0.63 g of 3-(2-aminophenylthio)-2-(1H-tetrazol-5-yl)phenol (prepared in Reference Example 12)-followed by addition of a solution of 0.58 g of ethyl 4-chloroformylphenoxyacetate in 2 ml of toluene, and the mixture was refluxed for 2 hours. The solvent was then distilled off and the residue was subjected to silica gel column chromatography using 0.5% methanol-chloroform as the eluent to give 0.66 g of the title compound as white crystals, m.p. 155°-157° C.

reactant | 3-(2-aminophenylthio)-2-(1H-tetrazol-5-yl)phenol | 0.63 g | NC1=C(C=CC=C1)SC=1C(=C(C=CC1)O)C1=NN=NN1 | C13H11N5OS
reactant | ethyl 4-chloroformylphenoxyacetate | 0.58 g | ClC(=O)C1=CC=C(OCC(=O)OCC)C=C1 | C11H11ClO4
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 4-[2-[3-hydroxy-2-(1H-tetrazol-5-yl)phenylthio]phenylcarbamoyl]phenoxyacetate | 0.66 g | OC=1C(=C(C=CC1)SC1=C(C=CC=C1)NC(=O)C1=CC=C(OCC(=O)OCC)C=C1)C1=NN=NN1 | C24H21N5O5S
